US03965111
1.1 ml of methyl isocyanate is added to a suspension of 5 g of 2-hydrazino-5-o-chlorophenyl-7-ethyl-3H-thieno[ 2,3-e] [1,4] diazepine in 100 ml of tetrahydrofuran, and the resulting mixture is stirred at room temperature for 2 hours. Then the reaction mixture is poured into ice water, and the precipitated crystals are collected by filtration, washed with water, dried, and recrystallized from a mixture of chloroform and ligroin to give 2-(4-methylsemicarbazido)-5-o-chlorophenyl-7-ethyl-3H-thieno[ 2,3-e][1,4]diazepine, melting at 213°-215° C.

reactant | methyl isocyanate | 1.1 ml | CN=C=O | C2H3NO
reactant | 2-hydrazino-5-o-chlorophenyl-7-ethyl-3H-thieno[ 2,3-e] [1,4] diazepine | 5 g | N(N)C=1CN=C(C2=C(N1)SC(=C2)CC)C2=C(C=CC=C2)Cl | C15H15ClN4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-methylsemicarbazido)-5-o-chlorophenyl-7-ethyl-3H-thieno[ 2,3-e][1,4]diazepine | CNC(NNC=1CN=C(C2=C(N1)SC(=C2)CC)C2=C(C=CC=C2)Cl)=O | C17H18ClN5OS
